US07371765B2
Using an analogous procedure to that described for the preparation of the starting material in Example 15, (see note a) above), 4-chloro-6-cyano-7-hydroxyquinoline (300 mg, 1.46 mmol), (prepared as described for the starting material in Example 1), was reacted with 3-(methylsulphonyl)-1-propanol (263 mg, 1.9 mmol) and the crude product was purified using a gradient of methylene chloride/ethyl acetate (1/1) to (2/8) to give 4-chloro-6-cyano-7-(3-methylsulphonylpropoxy)quinoline (428 mg, 90%)

reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 1.46 mmol, 300 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 3-(methylsulphonyl)-1-propanol | 1.9 mmol, 263 mg | CS(=O)(=O)CCCO | C4H10O3S
product | 4-chloro-6-cyano-7-(3-methylsulphonylpropoxy)quinoline | 428 mg, 90% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCS(=O)(=O)C | C14H13ClN2O3S
